US04710507
n-Butyl lithium (63 cm3 of a 1.6M solution in hexane) was added dropwise to a stirred solution of 6-bromo-2-methoxyquinoline (20 g) in THF (250 cm3) at -70° under nitrogen. After 0.5 hours, solid carbon dioxide (50 g) was added, the solution was allowed to warm to room temperature, and volatile material was removed in vacuo. The residue was partitioned between dichloromethane (100 cm3) and water (100 cm3), the aqueous phase was separated and acidified to pH 3.5 with 5M hydrochloric acid. The precipitated solid was filtered and dried (14.2 g). Recrystallisation of a small portion from isopropanol afforded 2-methoxyquinoline-6-carboxylic acid, m.p. 220°-222°.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 6-bromo-2-methoxyquinoline | 20 g | BrC=1C=C2C=CC(=NC2=CC1)OC | C10H8BrNO
reactant | carbon dioxide | 50 g | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 250 cm3 | C1CCOC1 | C4H8O
product | 2-methoxyquinoline-6-carboxylic acid | COC1=NC2=CC=C(C=C2C=C1)C(=O)O | C11H9NO3
